US06080773
In 46 ml of dry pyridine was dissolved 4.6 g of 2-(1,2-benzisoxazol-3-yl)-α-methyl-benzenemethanol. Under an atmosphere of nitrogen, 4.6 g of chromium trioxide was slowly added at room temperature. After stirring at room temperature for 4 h, 200 ml of diethyl ether were added to the reaction mixture. The precipitates were filtered off and washed with diethyl ether. The filtrate was washed with 5 portions of 100 ml of 2N aqueous hydrochloric acid and 2 portions of 200 ml of water, dried over magnesium sulphate and evaporated to dryness to afford 4.5 g of 1-[2-(1,2-benzisoxazol-3-yl)phenyl]-ethanone, melting at 108° C.

reactant | 2-(1,2-benzisoxazol-3-yl)-α-methyl-benzenemethanol | 4.6 g | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(O)C | C15H13NO2
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | pyridine | 46 ml | N1=CC=CC=C1 | C5H5N
catalyst | chromium trioxide | 4.6 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-[2-(1,2-benzisoxazol-3-yl)phenyl]-ethanone | 4.5 g | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(C)=O | C15H11NO2
